US07192950B2
N-Benzo[1,3]dioxol-5-ylmethyl-2-[1-(3,4-dimethoxy-benzyl)-7,8-dimethoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-acetamide
prepared by reaction of 2-bromoacetyl bromide with piperonylamine and 1-(3,4-dimethoxy-benzyl)-7,8-dimethoxy-2,3,4,5-tetrahydro-1H-benzo[c]azepine.

reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | piperonylamine | C(C1=CC=2OCOC2C=C1)N | C8H9NO2
reactant | 1-(3,4-dimethoxy-benzyl)-7,8-dimethoxy-2,3,4,5-tetrahydro-1H-benzo[c]azepine | COC=1C=C(CC2NCCCC3=C2C=C(C(=C3)OC)OC)C=CC1OC | C21H27NO4
product | N-Benzo[1,3]dioxol-5-ylmethyl-2-[1-(3,4-dimethoxy-benzyl)-7,8-dimethoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-acetamide | O1COC2=C1C=CC(=C2)CNC(CN2C(C1=C(CCC2)C=C(C(=C1)OC)OC)CC1=CC(=C(C=C1)OC)OC)=O | C31H36N2O7
